US07932272B2
Potassium phthalimide (20 g, 0.108 mol) was added to a solution obtained by dissolving 4-benzyloxybenzyl chloride (25 g, 0.107 mol) in N,N-dimethylformamide (75 mL), and the solution was stirred for 3 hours under reflux. The reaction solution was allowed to room temperature, then, ethyl acetate and water were added for partitioning, the organic layer was washed with water and dried over anhydrous magnesium sulfate. The solvent was evaporated, and 2-(4-benzyloxybenzyl)-isoindol-1,3-dione (37 g, quantitatively) was obtained as a pale brown solid.

reactant | Potassium phthalimide | 0.108 mol, 20 g | C1(C=2C(C(N1)=O)=CC=CC2)=O.[K]
reactant | 4-benzyloxybenzyl chloride | 0.107 mol, 25 g | C(C1=CC=CC=C1)OC1=CC=C(CCl)C=C1 | C14H13ClO
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 75 mL | CN(C=O)C | C3H7NO
product | 2-(4-benzyloxybenzyl)-isoindol-1,3-dione | C(C1=CC=CC=C1)OC1=CC=C(CN2C(C3=CC=CC=C3C2=O)=O)C=C1 | C22H17NO3
